US06818643B1
N-t-butyloxycarbonyl-3-amino-propionaldehyde
To a stirred solution of the N-t-butyloxycarbonyl-aminopropanol (15.0 g, 65.6 mmol) in dichloromethane (260 mL) at 0° C. was slowly added Dess-Martin periodinane reagent (47.3 g, 111 mmol). The mixture was allowed to gradually warm to ambient temperature and stirred overnight. It was then partitioned between diethyl ether (600 ml) and 1N sodium hydroxide (300 mL) and shaken vigorously. The organic layer was dried and evaporated. The residue was chromatographed on silica, eluting with 25% ethyl acetate/hexane to afford the product as a thin, colorless oil (4.20 g, 28%). 1H NMR (300 MHz, CDCl3) δ 9.63 (s, 1 H), 5.17 (br s, 1 H), 3.30 (q, 2 H), 2.60 (t, 2 H), 1.33 (s, 9 H).

reactant | N-t-butyloxycarbonyl-aminopropanol | 65.6 mmol, 15.0 g | C(C)(C)(C)OC(=O)NC(CC)O | C8H17NO3
reactant | Dess-Martin periodinane | 111 mmol, 47.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 260 mL | ClCCl | CH2Cl2
product | N-t-butyloxycarbonyl-3-amino-propionaldehyde | 4.20 g, 28% | C(C)(C)(C)OC(=O)NCCC=O | C8H15NO3
